US07507740B2
Production of N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
A mixture of 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine (80 mg), 3-chloro-4-(pyridin-2-ylmethoxy)aniline (94 mg) and 1-methyl-2-pyrrolidinone (2.5 mL) was stirred at 140° C. for 2 hrs, poured into water (10 mL) and adjusted to pH 8 with saturated aqueous sodium hydrogen carbonate. The mixture was extracted with ethyl acetate (30 mL×2). The organic layers were combined and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→0:1). The object fraction was concentrated under reduced pressure. Chloroform-diisopropyl ether was added to the residue, and the solid was collected by filtration and dried under reduced pressure at 60° C. to give the title compound (71 mg).

reactant | 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine | 80 mg | ClC=1C2=C(N=CN1)C=C(N2)C=2OC=CC2 | C10H6ClN3O
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 94 mg | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
reactant | 1-methyl-2-pyrrolidinone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 mL | O | H2O
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 71 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC=1C2=C(N=CN1)C=C(N2)C=2OC=CC2 | C22H16ClN5O2
